US04208205
A solution of 7.7 parts of 2-phenoxybenzoyl chloride in 50 parts of methylene chloride was added slowly to a cold (0°) vigorously stirred mixture of 50 parts of methylene chloride and 40 parts of 25% aqueous dimethyl amine. After 8 hours the methylene chloride layer was separated. The organic layer was washed with water and dried over magnesium sulfate. Removal of the magnesium sulfate by filtration and the methylene chloride under vacuum gave 5.1 parts of N,N dimethyl-2-phenoxybenzamide as a viscous oil. NMR (CDCl3) 2.9δ(S,3H,N--CH3), 3δ(S,3H,N--CH3), 7.2δ(m,9H,Aromatic H).

reactant | 2-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO2
reactant | dimethyl amine | CNC | C2H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N dimethyl-2-phenoxybenzamide | CN(C(C1=C(C=CC=C1)OC1=CC=CC=C1)=O)C | C15H15NO2
